US07157488B2
N-(2-(5-Methoxy-1H-indol-3-yl)ethyl)-3-propoxybenzylamine
Combine 3-propoxybenzaldehyde (14.05 g, 0.0856 mole) and 5-methoxytryptamine (13.64 g, 0.0717 mole) in 390 mL absolute EtOH. Add molecular sieves (19.2 g) and heat the suspension to reflux. After 4 hours, cool to room temperature and add NaBH4 (37.32 g, 0.2146 mole) in 3 portions. Stir the mixture for 1 hour at room temperature, filter, evaporate the filtrate to a mass of about 100 g, add water and dichloromethane. After separation, wash the aqueous phase with dichloromethane, combine the organic layers, dry over MgSO4, filter, evaporate the solvent in vacuo to afford the title compound.

reactant | 3-propoxybenzaldehyde | 0.0856 mole, 14.05 g | C(CC)OC=1C=C(C=O)C=CC1 | C10H12O2
reactant | 5-methoxytryptamine | 0.0717 mole, 13.64 g | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
reactant | NaBH4 | 0.2146 mole, 37.32 g | [BH4-].[Na+]
solvent | EtOH | 390 mL | CCO | C2H6O
product | N-(2-(5-Methoxy-1H-indol-3-yl)ethyl)-3-propoxybenzylamine | COC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCCC | C21H26N2O2
